US04147872
1-Benzyl-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol
To a mixture of 39.9 g. (80 mmols.) of 1-benzyl-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-1,2,5,6-tetrahydropyridine and 4.8 g. (115 mmols.) of sodium borohydride in 50 ml. of tetrahydrofuran is added 21.6 ml. (180 mmols.) of borontrifluoride etherate complex in 40 ml. of tetrahydrofuran during a 2 hour period at 0°-5° C. Stirring is continued 2 hours longer at 25° C. The reaction mixture is cooled in ice and quenched with 6.5 ml. of water and then 20 ml. of 2N sodium hydroxide and 20 ml. of 30% hydrogen peroxide are added dropwise. After several minutes stirring the reaction is cooled and 20 ml. of concentrated hydrochloric acid is added dropwise. The reaction mixture is partially evaporated and then made basic with 6N sodium hydroxide. The concentrated mixture is extracted with 250 ml. of ether, the ether extract washed with 100 ml. of saturated sodium chloride, dried over magnesium sulfate and evaporated. The residue is purified via column chromatography on 400 g. of silica gel eluted with 50% ether-cyclohexane to yield the title compound.

reactant | 1-benzyl-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-1,2,5,6-tetrahydropyridine | 80 mmols | C(C1=CC=CC=C1)N1CC(=CCC1)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C34H43NO
reactant | sodium borohydride | 115 mmols | [BH4-].[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-Benzyl-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol | C(C1=CC=CC=C1)N1CC(C(CC1)O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C34H45NO2
